US08859580B2
2-Benzyl-2-aza-bicyclo[3.3.1]nonan-6-ol
Diisobutylaluminumhydride (1.5 mol/L in toluene, 21 mL) is added to a solution of acetic acid 2-benzyl-3-oxo-2-aza-bicyclo[3.3.1]non-6-yl ester (1.50 g, for synthesis see J. Chem. Soc., Perkin Trans. 1 1999, 1157-1162) in toluene (30 mL) cooled to −70° C. The cooling bath is removed and the solution is stirred at ambient temperature overnight. Then, another portion of diisobutylaluminumhydride (1.5 mol/L in toluene, 20 mL) is added and the solution is stirred for additional 4 h at room temperature. Then, the solution is poured into ice-cold water and the resulting mixture is extracted with ethyl acetate. The aqueous phase is acidified using 4 M hydrochloric acid and extracted one more time with ethyl acetate. The combined organic extracts are dried (Na2SO4) and the solvent is removed. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0->2:1).

reactant | Diisobutylaluminumhydride | 1.5 mol/L, 21 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | acetic acid 2-benzyl-3-oxo-2-aza-bicyclo[3.3.1]non-6-yl ester | 1.50 g | C(C1=CC=CC=C1)N1C2CCC(C(CC1=O)C2)OC(C)=O | C17H21NO3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Benzyl-2-aza-bicyclo[3.3.1]nonan-6-ol | C(C1=CC=CC=C1)N1C2CCC(C(CC1)C2)O | C15H21NO
